US04242507
In 1 N aqueous sodium hydroxide (45 ml) is dissolved 1-hydroxy-6-nitro-1,2,3-benzotriazole (7.2 g). To the solution is gradually added p-toluenesulfonyl chloride (7.7 g) with stirring under ice-cooling and further are added thereto ethyl acetate (100 ml) and water (50 ml) and the mixture is stirred for 1 hour. The ethyl acetate layer is separated, dried over magnesium sulfate-charcoal, and concentrated until it becomes about 30 ml. n-Hexane (about 50 ml) is added thereto and the mixture is allowed to stand. The precipitated crystals are separated and dried to give faint yellow needles of 1-(p-toluenesulfonyl-oxy)-6-nitro-1,2,3-benzotriazole (7.5 g), melting point: 142°-144° C. The product is recrystallized from ethyl acetate-n-hexane to give a pure product, melting point: 144° C.

reactant | 1-hydroxy-6-nitro-1,2,3-benzotriazole | 7.2 g | ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C6H4N4O3
reactant | p-toluenesulfonyl chloride | 7.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | sodium hydroxide | 1 N, 45 ml | [OH-].[Na+]
product | 1-(p-toluenesulfonyl-oxy)-6-nitro-1,2,3-benzotriazole | 7.5 g | C1(=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-])C | C13H10N4O5S
